US05547972
A solution of 2-phenylimidazole (14.4 g) in dry DMF (25 ml) was added dropwise to a stirred suspension of sodium hydride (4.0 g, 60% dispersion in oil) in dry DMF (125 ml) at ambient temperature under nitrogen for 2 hours. A slurry of N-(3-bromopropyl)phthalimide (25.5 g) in dry DMF (40 ml) was added and the mixture heated at 100° C. for 16 hours. The solvent was evaporated off and the residue was extracted with hot toluene. The combined toluene extracts were evaporated to dryness and the residue triturated with ether and dried to give N-[3-(2-phenylimidazol-1-yl)propyl]phthalimide, m.p. 109°-110.5° C.

reactant | 2-phenylimidazole | 14.4 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | N-(3-bromopropyl)phthalimide | 25.5 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | N-[3-(2-phenylimidazol-1-yl)propyl]phthalimide | C1(=CC=CC=C1)C=1N(C=CN1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H17N3O2
